US06720338B2
tert-butyl 4-cyano-4-(phenylthio)piperidine-1-carboxylate
A solution of diisopropylamine (3.36 mL, 24 mmol) in THF (20 mL) at −78° C. was slowly treated with 2.5M n-butyllithium (7.2 mL, 18 mmol) in hexanes, warmed to 0° C. for 15 minutes, cooled to −78° C., treated slowly with a solution of N-BOC-4-cyanopiperidine (2.5 g, 12 mmol) in THF (10 mL), stirred for 30 minutes, and treated with a solution of PhSSPh (5.24 g, 24 mmol) in THF (20 mL). The mixture was stirred for 2 hours, warmed to room temperature, and quenched with saturated NH4Cl (50 mL). The mixture was extracted with ethyl acetate (3×50 mL) and the combined extracts were washed with water and brine, dried (Na2SO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 3:1 hexanes/ethyl acetate to provide the desired product. MS (ESI) m/e 319 (M+H)+.

reactant | diisopropylamine | 24 mmol, 3.36 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 18 mmol, 2.5M, 7.2 mL | C(CCC)[Li]
reactant | N-BOC-4-cyanopiperidine | 12 mmol, 2.5 g | C(=O)(OC(C)(C)C)N1CCC(CC1)C#N | C11H18N2O2
reactant | PhSSPh | 24 mmol, 5.24 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-cyano-4-(phenylthio)piperidine-1-carboxylate | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)SC1=CC=CC=C1 | C17H22N2O2S
